US08071595B2
To a room temperature, stirred solution of 3-bromo-1-methyl-4-(4-oxopiperidin-1-yl)-1H-pyrrole-2,5-dione (100 mg, 0.34 mmol) in 1,4-dioxane (10 mL) was added 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (151 mg, 0.41 mol) under a N2 atmosphere. The reaction mixture was stirred for 30 minutes and then Na2CO3 (87 mg, 1.04 mmol), water (4 mL) and Pd(PPh3)4 (40 mg, 0.03 mmol) were added also under a N2 atmosphere. The resulting mixture was then refluxed for 16 h, diluted with water and extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude material was purified via silica gel column chromatography eluting with 60% EtOAc in hexanes to afford 1-methyl-3-(4-oxopiperidin-1-yl)-4-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrole-2,5-dione (80 mg, 52%) as a solid. 1H NMR (500 MHz, d6-DMSO): δ 8.45 (d, J=7.4 Hz, 1H), 8.12 (t, J=7.2 Hz, 2H) 7.79 (t, J=7.2 Hz, 1H), 7.72 (d, J=7.8 Hz, 1H), 7.64 (t, J=7.6 Hz, 1H), 7.18 (d, J=7.2 Hz, 2H), 7.12 (d, J=7.2 Hz, 2H), 5.38 (s, 2H), 3.62-3.58 (m, 4H), 2.96-2.85 (m, 4H), 2.56 (s, 4H). MS: M′: m/z=441.6; M+H: m/z=442.7. HPLC: 97%, (Condition-B).

reactant | 3-bromo-1-methyl-4-(4-oxopiperidin-1-yl)-1H-pyrrole-2,5-dione | 0.34 mmol, 100 mg | BrC=1C(N(C(C1N1CCC(CC1)=O)=O)C)=O | C10H11BrN2O3
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 0.41 mol, 151 mg | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Na2CO3 | 1.04 mmol, 87 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | 1-methyl-3-(4-oxopiperidin-1-yl)-4-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrole-2,5-dione | 80 mg, 52% | CN1C(C(=C(C1=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)N1CCC(CC1)=O)=O | C26H23N3O4
